US07348337B2
Preparation of 4-Hydroxy-4-(1-carboxy-1-phenyl-methyl)piperidine-1-carboxylic acid tert-butyl ester:
To a solution of phenylacetic acid (13.7 g, 0.100 mol) in THF (90 mL) at 0° C. was slowly added iPrMgCl (2M in Et2O, 100 mL, 0.200 mol). The mixture was stirred at rt for 1 h and then N-Boc-4-piperidone (20.0 g, 0.100 mol) was added as a solid. Stirring was continued for 1 h and then the mixture was quenched with sat. NH4Cl and acidified to pH 2 using concentrated HCl. The mixture was extracted with EtOAc (×3) and the combined organic layers were dried over Na2SO4, filtered and concentrated to give the title compound (33.3 g, 99%) as a colorless foam which was of sufficient purity to continue to the next step:

reactant | phenylacetic acid | 0.100 mol, 13.7 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | iPrMgCl | 0.200 mol, 2M, 100 mL | C(C)(C)[Mg]Cl
reactant | N-Boc-4-piperidone | 0.100 mol, 20.0 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-4-(1-carboxy-1-phenyl-methyl)piperidine-1-carboxylic acid tert-butyl ester | 33.3 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(C1=CC=CC=C1)C(=O)O)O | C18H25NO5
